US07414050B2
l) 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(2,6-dioxo-piperidin-4-yl)-phenyl]-amide
A solution of 73.5 mg (0.259 mmol) of 4-(4-amino-3-cyclohex-1-enyl-phenyl)-piperidine-2,6-dione (as prepared in the previous step) in CH2Cl2 (20 mL) was treated with 64.4 mg (0.388 mmol) of PyBroP, 86.8 mg (0.284 mmol) of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylate potassium salt (as prepared in this Example, step (d)), and 135 μL (0.775 mmol) of DIEA at RT for 2 h. The mixture was diluted with CH2Cl2 (50 mL) and washed with saturated aqueous NaHCO3 (2×30 mL). The organic layer was dried (MgSO4) and concentrated in vacuo to afford 70.0 mg (51%) of the title compound as an off-white solid: Mass spectrum (ESI, m/z): Calcd. for C28H35N5O4Si, 534.3 (M+H). found 534.2.

reactant | 4-(4-amino-3-cyclohex-1-enyl-phenyl)-piperidine-2,6-dione | 0.259 mmol, 73.5 mg | NC1=C(C=C(C=C1)C1CC(NC(C1)=O)=O)C1=CCCCC1 | C17H20N2O2
reactant | PyBroP | 0.388 mmol, 64.4 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylate potassium salt | 0.284 mmol, 86.8 mg | [K+].C(#N)C=1N=C(N(C1)COCC[Si](C)(C)C)C(=O)[O-]
reactant | DIEA | 0.775 mmol, 135 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(2,6-dioxo-piperidin-4-yl)-phenyl]-amide | 70.0 mg, 51% | C1(=CCCCC1)C1=C(C=CC(=C1)C1CC(NC(C1)=O)=O)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C28H35N5O4Si
